US04536579
To a cooled, stirred solution of 25% sodium methoxide (1200 ml, 5.55 mole) was added a slurry of 200 g (1.85 mole) of propionamidine hydrochloride in 300 ml of methanol. Next, 244 g (1.85 mole) of dimethyl malonate was added and the mixture was permitted to warm to about 20° C., after which it was stirred for 16 hours. The mixture was evaporated in vacuo and water (about 2 l) was added. This mixture was neutralized with concentrated hydrochloric acid to provide a white precipitate which was separated by filtration to provide 230 g (96%) of 4,6-dihydroxy-2-ethylpyrimidine, m.p. 312°-215° C. The structural assignment was confirmed by infrared and nuclear magnetic resonance spectral analyses.

reactant | sodium methoxide | 5.55 mole, 1200 ml | C[O-].[Na+]
reactant | propionamidine hydrochloride | 1.85 mole, 200 g | Cl.C(CC)(=N)N
reactant | dimethyl malonate | 1.85 mole, 244 g | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | methanol | 300 ml | CO | CH4O
product | 4,6-dihydroxy-2-ethylpyrimidine | 230 g, 96% | OC1=NC(=NC(=C1)O)CC | C6H8N2O2
